US08754079B2
243.4 4-(2-Cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide
Prepared analogously to example 1.4 from 4-(2-cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid (127 mg) and 7 M ammonia in MeOH (1 ml).

reactant | 4-(2-cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid | 127 mg | C1(CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)O | C18H16FN3O3S
reactant | ammonia | 7 M | N | H3N
solvent | MeOH | 1 ml | CO | CH4O
product | 4-(2-Cyclobutoxy-4-fluoro-phenylamino)-5-methyl-thieno[2,3-d]pyrimidine-6-carboxylic acid amide | C1(CCC1)OC1=C(C=CC(=C1)F)NC=1C2=C(N=CN1)SC(=C2C)C(=O)N | C18H17FN4O2S
